* C:\Users\tisda\Desktop\Projects\BB_PowerSupply\LTSpice\Sim.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 10
X§U1 N003 N002 N001 LT317A ;§pnba ADJ)OUT)IN
C1 N001 0 0.1µ
R1 N002 N003 240
R2 N006 N005 30
R3 0 N006 18
V2 N004 0 PULSE(0 1 0 1n 1n 1m 2m)
S1 N005 N003 N004 0 sw_1
C2 N002 0 1µ
.tran 10m
.model sw_1 SW(Ron=0.01 Roff=1Meg Vt=0.5 Vh=0)
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\tisda\AppData\Local\LTspice\lib\sym\PowerProducts\LT317A.asy)
.lib LT317A.sub
.backanno
.end
